US09034907B2
(1H-benzo[d]imidazol-5-yl)methanamine hydrochloride (14)
1H-benzo[d]imidazole-5-formaldehyde oxime (0.55 mmol, 1 eq.) was dissolved in 10 mL methanol and 300 μL of concentrated hydrochloric acid was added. The mixture was flushed with argone and palladium on activated carbon (10% Pd) was added to the solution. The mixture was hydrogenated at 4 bar for 3 hours. The resulted mixture was filtrated through a pad of celite, the solvent was removed and the residue was dried over phosphorus pentoxide in a exsiccator to give a white solid.

reactant | 1H-benzo[d]imidazole-5-formaldehyde oxime | 0.55 mmol, 1 eq. | N1C=NC2=C1C=CC(=C2)C=NO | C8H7N3O
reactant | hydrochloric acid | 300 μL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | (1H-benzo[d]imidazol-5-yl)methanamine hydrochloride | Cl.N1C=NC2=C1C=CC(=C2)CN | InChI=1S/C8H9N3.ClH/c9-4-6-1-2-7-8(3-6)11-5-10-7;/h1-3,5H,4,9H2,(H,10,11);1H
